US06743814B2
10.40 ml of n-butyl lithium (1.6 M n-hexane solution) were slowly added dropwise to a solution of 3.14 g of 2-(3,4,4-trifluoro-3-butenylthio)oxazole in 40 ml of ether at −70° C. After stirring for 1 hour, a solution of 2.06 g bromomethyl methyl ether in 10 ml ether was added dropwise. After bringing the mixture back to room temperature and stirring for 1 hour, 50 ml of saturated solution of ammonium chloride was added to separate it into an ether layer and an aqueous layer. The aqueous layer was further extracted with ether and together with the separated ether layer it was washed with a saturated sodium chloride water and dried with anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was treated by column chromatography to obtain 0.5 g of 5-methoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole (yield 13%). n20D=1.4705.

reactant | n-butyl lithium | 1.6 M, 10.40 ml | C(CCC)[Li]
reactant | 2-(3,4,4-trifluoro-3-butenylthio)oxazole | 3.14 g | FC(CCSC=1OC=CN1)=C(F)F | C7H6F3NOS
reactant | bromomethyl methyl ether | 2.06 g | COCBr | C2H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 5-methoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 0.5 g, yield 13% | COCC1=CN=C(O1)SCCC(=C(F)F)F | C9H10F3NO2S
